US06919336B2
a) (5-Bromo-2-chloro-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanol
(5-Bromo-pyridin-2-yl)-(2,4-difluoro-phenyl)-amine (3 g; 10.5 mmol) is dissolved in THF (70 ml) and cooled to −78 C. nBuLi (14.5 ml of a 1.5M solution in hexane; 23 mmol) is added dropwise and the resulting yellow suspension stirred or 20 min. 5-Bromo-2-chlorobenzaldehyde in THF (6 ml) is added at −78 C. After 5 min at −78 C, the reaction mixture is warmed to −50 C, poured on water and extracted with TBME twice. The combined organic phases are dried over Na2SO4 and evaporated to dryness. Purification via chromatography (SiO2; acetone/hexanes 6/94>12/88) yields the title compound as orange viscuous oil, (2.58 g; 58%) which is used in the next step. b) (5-Bromo-2-chloro-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanone

reactant | (5-Bromo-pyridin-2-yl)-(2,4-difluoro-phenyl)-amine | 10.5 mmol, 3 g | BrC=1C=CC(=NC1)NC1=C(C=C(C=C1)F)F | C11H7BrF2N2
reactant | nBuLi | [Li]CCCC
reactant | 5-Bromo-2-chlorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | (5-Bromo-2-chloro-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanol | BrC=1C=CC(=C(C1)C(O)C=1C=NC(=CC1)NC1=C(C=C(C=C1)F)F)Cl | C18H12BrClF2N2O
